US06936608B2
c) 7-[3-(Pyridin-3-yl)phenyl]-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine
This reaction was carried out as described in Example 37, step e, using 3-[3-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)phenyl]pyridine (150 mg, 0.56 mmol), 7-bromo-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine (0.1 g, 0.375 mmol), 2 M Na2CO3 (0.56 ml) and tetrakis(triphenylphosphine)-palladium(0) (0.022 g) in 1,2-dimethoxyethane (2 ml). The crude residue was purified by flash chromatography (silica gel, 5% MeOH(CH2Cl2) to yield the title compound (56 mg, 44%): 1H NMR (400 MHz, CDCl3) δ 7.42-7.45 (1H, m), 7.68-7.70 (2H, m), 7.95-7.98 (1H, m), 8.09-8.12 (1H, m), 8.34-8.35 (1H, m), 8.67 (1H, dd, J 4.7, 1.8 Hz), 8.68 (1H, s), 8.84 (1H, s), 8.93 (1H, dd, J 2.5, 0.8 Hz); MS (ES+) m/z 342 [M+H]+.

reactant | 3-[3-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)phenyl]pyridine | 0.56 mmol, 150 mg | CC1(COB(OC1)C=1C=C(C=CC1)C=1C=NC=CC1)C | C16H18BNO2
reactant | 7-bromo-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine | 0.375 mmol, 0.1 g | BrC1=CN=C2N1N=CC(=N2)C(F)(F)F | C6H2BrF3N4
reactant | Na2CO3 | 2 M, 0.56 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 2 ml | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)-palladium(0) | 0.022 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 7-[3-(Pyridin-3-yl)phenyl]-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine | 56 mg, 44% | N1=CC(=CC=C1)C=1C=C(C=CC1)C1=CN=C2N1N=CC(=N2)C(F)(F)F | C17H10F3N5
